US04649150
2-Methylthio-4-(4-amino-phenyl)-1H-imidazole
Concentrated hydrochloric acid (60 ml) was added dropwise to a stirred suspension of 2-methylthio-4-(4-nitro-phenyl)-1H-imidazole (5.88 g) and granulated tin (8.9 g) in water (25 ml). After an additional 3 hours of stirring at 100° C., the mixture was cooled to room temperature and filtered. The filter cake was dissolved in water, and the solution was filtered and evaporated to dryness. The residual solid was washed with ethanol, filtered off and treated with an ethanolic solution of sodium ethoxyde to give the free base (3 g).

reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | 2-methylthio-4-(4-nitro-phenyl)-1H-imidazole | 5.88 g | CSC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2S
reactant | tin | 8.9 g | [Sn] | Sn
solvent | water | 25 ml | O | H2O
product | 2-Methylthio-4-(4-amino-phenyl)-1H-imidazole | 3 g | CSC=1NC=C(N1)C1=CC=C(C=C1)N | C10H11N3S
